US05185360
5,6-Dihydroindeno2,1-b]indole
2-Indanone (5.25 g, 39.7 mmol) and phenylhydrazine hydrochloride (5.74 g, 39.7 mmol), were heated to reflux in glacial acetic acid (60 cm3) for 1 hour, and then cooled. The solution was poured into ice/water, and the solid precipitate collected by filtration. After partial purification by column chromatography, and crystallization (charcoal) from ethyl acetate to yielded colourless needles of the title compound. Yield 0.64 g (80%). M.p. 205° C. 1H NMR (DMSO-d6) δ: 3.65 (2H, s,), 7.0-7.2 (8H,), 10.40 (1H, br,).

reactant | 2-Indanone | 39.7 mmol, 5.25 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | phenylhydrazine hydrochloride | 39.7 mmol, 5.74 g | Cl.C1(=CC=CC=C1)NN
solvent | acetic acid | 60 cm3 | C(C)(=O)O | C2H4O2
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
